US08217176B2
Production of N-(3-aminopropyl)-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide hydrochloride
A solution of the obtained tert-butyl {3-[{[3-methoxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinolin-2-yl]carbonyl}(methyl)amino]propyl}carbamate (230 mg) and 4N hydrogen chloride ethyl acetate solution (8 mL) in ethyl acetate (15 mL) was stirred at room temperature for 2 hr. The obtained precipitate was collected by filtration, washed with diethyl ether, and dried under reduced pressure to give the title compound (216 mg, 54%) as a white powder.

reactant | tert-butyl {3-[{[3-methoxy-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinolin-2-yl]carbonyl}(methyl)amino]propyl}carbamate | 230 mg | COC1=C(SC2=C1C(N(C=1C=CC=CC21)CC(C2=CC=CC=C2)=O)=O)C(=O)N(CCCNC(OC(C)(C)C)=O)C | C30H33N3O6S
reactant | hydrogen chloride ethyl acetate | 4N, 8 mL | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-aminopropyl)-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide hydrochloride | 216 mg, 54% | Cl.NCCCN(C(=O)C1=C(C=2C(N(C=3C=CC=CC3C2S1)CC(C1=CC=CC=C1)=O)=O)OC)C | InChI=1S/C25H25N3O4S.ClH/c1-27(14-8-13-26)25(31)23-21(32-2)20-22(33-23)17-11-6-7-12-18(17)28(24(20)30)15-19(29)16-9-4-3-5-10-16;/h3-7,9-12H,8,13-15,26H2,1-2H3;1H
